datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(O)[C@@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(O)[C@@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-]CCC(N(C)C)=[NH:10])cc1.Cn1n[n+:21]([H:20])cc1Nc1ccccc1>>Cc1ccc(S(=O)(=O)[N-]CCC(N(C)C)=[NH+:10][H:20])cc1.Cn1n[n:21]cc1Nc1ccccc1 10=20;20,21=21",
"O=Cc1c(O)ccc[n+:21]1[H:20].O=[N+]([O-])c1ccc2cc([O-:10])ccc2c1>>O=Cc1c(O)ccc[n:21]1.O=[N+]([O-])c1ccc2cc([O:10][H:20])ccc2c1 10=20;20,21=21",
"COCCSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>COCCSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"[OH2+]C[O-:10].c1ccc(C2SCC[NH+:21]2[H:20])cc1>>[OH2+]C[O:10][H:20].c1ccc(C2SCC[NH:21]2)cc1 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)Nc1cc(C)ccc1C)[H:20].c1ccc(C[N:10]2CCCC2)cc1>>CC[N:21](CC)CC(=O)Nc1cc(C)ccc1C.c1ccc(C[N+:10]2([H:20])CCCC2)cc1 10=20;20,21=21",
"CSc1nc2cc3c(cc2[n-:10]1)CCCC3.O=C(C(O)c1ccc([N+](=O)[O-])cc1)[O:21][H:20]>>CSc1nc2cc3c(cc2[n:10]1[H:20])CCCC3.O=C(C(O)c1ccc([N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"COc1ccc(N)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.Cc1cnnc2c([O:21][H:20])cccc12>>COc1ccc(N)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].Cc1cnnc2c([O-:21])cccc12 10=20;20,21=21",
"CCS/C(c1ccc(OC)cc1)=[O+:21]\[H:20].CC[N:10](CC)CCCC(C)Nc1cc(C)nc2cc(Cl)ccc12>>CCSC(c1ccc(OC)cc1)=[O:21].CC[N+:10](CC)(CCCC(C)Nc1cc(C)nc2cc(Cl)ccc12)[H:20] 10=20;20,21=21",
"C[NH:10]CCN.N#CC(C#N)=N[N:21](c1ccc([N+](=O)[O-])cc1Cl)[H:20]>>C[NH+:10](CCN)[H:20].N#CC(C#N)=N[N-:21]c1ccc([N+](=O)[O-])cc1Cl 10=20;20,21=21",
"CC1NCCC[NH:10]1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1NCCC[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH:10]CCCN1c2ccccc2CCc2ccccc21.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](CCCN1c2ccccc2CCc2ccccc21)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"OCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Oc1cc2cccnc2c2ccc[n+:21]([H:20])c12.c1cncc(CCC[NH2:10])c1>>Oc1cc2cccnc2c2ccc[n:21]c12.c1cncc(CCC[NH2+:10][H:20])c1 10=20;20,21=21",
"CC/C(N=O)=N/[O:21][H:20].Cc1cc(C)cc([NH2:10])c1>>CC/C(N=O)=N/[O-:21].Cc1cc(C)cc([NH2+:10][H:20])c1 10=20;20,21=21",
"COc1ccc(C[NH3+])cc1[NH2+:21][H:20].Cn1cnc2c[n:10]c([O-])nc21>>COc1ccc(C[NH3+])cc1[NH2:21].Cn1cnc2c[n+:10]([H:20])c([O-])nc21 10=20;20,21=21",
"CCCCCCCC[NH:10]CCC(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc(C[N:10]3CCOCC3)nc12.Cc1cccc([Se]CC(=O)[O:21][H:20])c1>>Cc1cc(-c2ccccc2)nn2cc(C[N+:10]3([H:20])CCOCC3)nc12.Cc1cccc([Se]CC(=O)[O-:21])c1 10=20;20,21=21",
"Oc1onc2c1CC[NH:10]CC2.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1onc2c1CC[NH+:10]([H:20])CC2.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH:10][C@@H]2CCCC[C@H]21.N#CC[NH2+:21][H:20]>>CC[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.N#CC[NH2:21] 10=20;20,21=21",
"C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C(N)=O)S(=O)(=O)[N-:10]C(N)=O.c1ccc(P(c2ccccc2)(c2ccccc2)=[N+:21](c2ccccc2)[H:20])cc1>>CC(C(N)=O)S(=O)(=O)[N:10](C(N)=O)[H:20].c1ccc(P(c2ccccc2)(c2ccccc2)=[N:21]c2ccccc2)cc1 10=20;20,21=21",
"COc1cc(C[NH2:10])ccc1O.O=[N+]([O-])[N:21](c1ccccc1)[H:20]>>COc1cc(C[NH2+:10][H:20])ccc1O.O=[N+]([O-])[N-:21]c1ccccc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc2ccc([O-:10])cc2nn1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc2ccc([O:10][H:20])cc2nn1 10=20;20,21=21",
"COC(=O)Nc1ncnc2c1[nH]c[n+:21]2[H:20].Cc1cc(-c2[nH]cc[n:10]2)n[nH]1>>COC(=O)Nc1ncnc2c1[nH]c[n:21]2.Cc1cc(-c2[nH]cc[n+:10]2[H:20])n[nH]1 10=20;20,21=21",
"CC(=O)c1cccc([N-:10]S(=O)(=O)C(F)(F)F)c1.C[N+:21](C)(c1ccc(/N=N/c2ccncc2)cc1)[H:20]>>CC(=O)c1cccc([N:10](S(=O)(=O)C(F)(F)F)[H:20])c1.C[N:21](C)c1ccc(/N=N/c2ccncc2)cc1 10=20;20,21=21",
"CN1C(=S)[N:21]([H:20])c2cncnc21.C[C@H]1O[C@H](O[C@H]2CC[C@H]([n+]3ccc(N)nc3[O-:10])O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[NH+](C)C>>CN1C(=S)[N-:21]c2cncnc21.C[C@H]1O[C@H](O[C@H]2CC[C@H]([n+]3ccc(N)nc3[O:10][H:20])O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[NH+](C)C 10=20;20,21=21",
"O=C(C[NH2+:21][H:20])Nc1ccc([N+](=O)[O-])cc1.O=C(c1ccc(F)cc1)[O-:10]>>O=C(C[NH2:21])Nc1ccc([N+](=O)[O-])cc1.O=C(c1ccc(F)cc1)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCCOCC[N+:21](C)(C)[H:20].C[N:10](c1ccccc1)C([O-])O>>CCCCCCCCOCC[N:21](C)C.C[N+:10](c1ccccc1)(C([O-])O)[H:20] 10=20;20,21=21",
